US04162246
Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]adipate (Compound No. 126)
9.6 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 5.2 g of bis(2,3-epoxypropyl)adipate and 0.1 g of potassium hydroxide were reacted in 80 ml of t-butanol, following substantially the same procedure as in Example 1. The desired Compound No. 126 was obtained in the form of white crystals, melting at 180°-184° C.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 9.6 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | bis(2,3-epoxypropyl)adipate | 5.2 g | O1C(COC(CCCCC(=O)OCC2CO2)=O)C1 | C12H18O6
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | t-butanol | 80 ml | C(C)(C)(C)O | C4H10O
product | Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]adipate | OC(COC(CCCCC(=O)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)=O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C36H60N6O10
